US05124345
Preparation of 9-(4-chlorobenzyl)-4,4-dimethyl-1-oxaspiro[2.6]nonane [Compound (II-4) in Table II]
In 5 ml of chloroform was dissolved 340 mg of 7-(4-chlorobenzyl)-2,2-dimethyl-1-methylenecycloheptane [Compound (III-3) in Table III], and then 450 mg of m-chloroperbenzoic acid was added to the mixture over 10 minutes and the mixture was stirred at room temperature for one hour. Next, 385 mg of calcium hydroxide was added and the mixture was stirred at room temperature for 10 minutes.

reactant | 7-(4-chlorobenzyl)-2,2-dimethyl-1-methylenecycloheptane | 340 mg | ClC1=CC=C(CC2CCCCC(C2=C)(C)C)C=C1 | C17H23Cl
reactant | m-chloroperbenzoic acid | 450 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 385 mg | [OH-].[Ca+2].[OH-]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-(4-chlorobenzyl)-4,4-dimethyl-1-oxaspiro[2.6]nonane | ClC1=CC=C(CC2CCCCC(C23CO3)(C)C)C=C1 | C17H23ClO
